US07470809B2
Step b) 2-(4-fluoro-benzyl)-benzoic acid (Compound V)
In a hydrogenation flask was added 2-(4-fluoro-benzoyl)-benzoic acid, propylene glycol monomethyl ether (1 L/mol) and Pd/C 10% wet (15 g/mol). Hydrogenation was performed at 50° C. over 18 hours. Thiophene (0.3 kg/mol) was added and the catalyst was filtered off. The filtrate was heated up to 80° C. and water (1.12 L/mol) was added at that temperature. The mixture was heated up to reflux, then cooled down to 25° C. and stirred at that temperature during 1 hour. The precipitate was filtered off, washed with water (1 L/mol) and dried at 50° C. during 18 hours. Active yield: 83%.

reactant | 2-(4-fluoro-benzoyl)-benzoic acid | FC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9FO3
reactant | propylene glycol monomethyl ether | COCC(C)O | C4H10O2
reactant | Thiophene | S1C=CC=C1 | C4H4S
catalyst | Pd/C | [Pd] | Pd
product | 2-(4-fluoro-benzyl)-benzoic acid | yield: 83% | FC1=CC=C(CC2=C(C(=O)O)C=CC=C2)C=C1 | C14H11FO2
